US04072498
Following the procedure of Example 95, but substituting α-(3-bromopropyl)-N,N,4-trimethyl-3-phenylpyrazole-1-acetamide for N,N,α,4-tetramethyl-3-phenylpyrazole-1-acetamide and without the addition of ethyl iodide there was obtained N,N-dimethyl-1-(4-methyl-3-phenylpyrazol-1-yl)cyclobutanecarboxamide having a melting point of 87°-89° C.

reactant | N,N,α,4-tetramethyl-3-phenylpyrazole-1-acetamide | CN(C(C(N1N=C(C(=C1)C)C1=CC=CC=C1)C)=O)C | C15H19N3O
reactant | ethyl iodide | C(C)I | C2H5I
product | N,N-dimethyl-1-(4-methyl-3-phenylpyrazol-1-yl)cyclobutanecarboxamide | CN(C(=O)C1(CCC1)N1N=C(C(=C1)C)C1=CC=CC=C1)C | C17H21N3O
